US08106070B2
5N Aqueous sodium hydroxide (1.45 mL) was added to an ambient temperature solution of benzyl 4-[4-(5-fluoropyridin-2-yl)benzyl]-4-methyl-5-oxo-2-phenyl-1,3-oxazolidine-3-carboxylate (180 mg, 0.36 mmol) in methanol (2 mL) and water (2 mL). After stirring at 80° C. for 2 h, the reaction mixture was concentrated. The residue was acidified with 2N hydrochloric acid and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried and concentrated in vacuo to afford 2-{[(benzyloxy)carbonyl]amino}-3-[4-(5-fluoropyridin-2-yl)phenyl]-2-methylpropanoic acid which was used in the subsequent step without further purification.

reactant | sodium hydroxide | 5N, 1.45 mL | [OH-].[Na+]
reactant | benzyl 4-[4-(5-fluoropyridin-2-yl)benzyl]-4-methyl-5-oxo-2-phenyl-1,3-oxazolidine-3-carboxylate | 0.36 mmol, 180 mg | FC=1C=CC(=NC1)C1=CC=C(CC2(N(C(OC2=O)C2=CC=CC=C2)C(=O)OCC2=CC=CC=C2)C)C=C1 | C30H25FN2O4
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 2-{[(benzyloxy)carbonyl]amino}-3-[4-(5-fluoropyridin-2-yl)phenyl]-2-methylpropanoic acid | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)C | C23H21FN2O4
